US04242346
A suspension of 2.38 g. (10 mmol) of 7,8-dichloro-1,2,3,4-tetrahydroisoquinoline and 3.18 g. (30 mmol) of sodium carbonate in 50 ml. of absolute ethanol were refluxed for 5 minutes. To this suspension was added 1.22 g. (5 mmol) of 1,6-dibromohexane and the mixture refluxed overnight. The reaction was cooled and after standing for 36 hours was filtered of solid precipitate. The resulting solid was suspended in 100 ml. of ethyl acetate and treated with 1 g. of magnesium sulfate. The mixture was filtered and the filtrate treated with 10 ml. of ethereal hydrochloric acid. The resulting precipitate was removed by filtration, washed with ether and dried to give 2,2'-hexylene-bis(7,8-dichloro-1,2,3,4-tetrahydroisoquinoline)dihydrochloride having a melting point of 308°-311° C.

reactant | 7,8-dichloro-1,2,3,4-tetrahydroisoquinoline | 10 mmol | ClC1=CC=C2CCNCC2=C1Cl | C9H9Cl2N
reactant | sodium carbonate | 30 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,6-dibromohexane | 5 mmol | BrCCCCCCBr | C6H12Br2
solvent | ethanol | C(C)O | C2H6O
product | 2,2'-hexylene-bis(7,8-dichloro-1,2,3,4-tetrahydroisoquinoline)dihydrochloride | Cl.Cl.C(CCCCCN1CC2=C(C(=CC=C2CC1)Cl)Cl)N1CC2=C(C(=CC=C2CC1)Cl)Cl | InChI=1S/C24H28Cl4N2.2ClH/c25-21-7-5-17-9-13-29(15-19(17)23(21)27)11-3-1-2-4-12-30-14-10-18-6-8-22(26)24(28)20(18)16-30;;/h5-8H,1-4,9-16H2;2*1H
